US05098900
4-Chloro-5-(benzylamino)-2-i-propyl-3(2H)pyridazinone (Compound No. 74)
In 6 ml of dry dimethylformamide, 1.875 g of 4-chloro-5-amino-2-i-propyl-3(2H)pyridazinone was dissolved. 0.48 g of sodium hydride (50% mineral oil suspension) was added thereto at a temperature of from 5° to 10° C., and the mixture was stirred for about 30 minutes. Then, 1.4 g of benzyl chloride was dropwise added thereto at the same temperature. After the dropwise addition, the mixture was stirred at room temperature for 2 hours. To the reaction solution, 50 ml of benzene and 30 ml of a 10% hydrochloric acid aqueous solution were added, and the mixture was vigorously shaken. The organic layer was washed with water, and dried, and then the solvent was distilled off. The crude crystals thereby obtained were recrystallized from ethyl ether to obtain 2.3 g of the above identified compound having a melting point of from 131° to 132° C.

reactant | 4-chloro-5-amino-2-i-propyl-3(2H)pyridazinone | 1.875 g | ClC=1C(N(N=CC1N)C(C)C)=O | C7H10ClN3O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | benzyl chloride | 1.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-Chloro-5-(benzylamino)-2-i-propyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCC1=CC=CC=C1)C(C)C)=O | C14H16ClN3O
